US07723538B2
A solution of 4-amino benzoic acid ethyl ester (1.95 g, 11.8 mmol) in dry dichloromethane (20.0 ml) was treated with triethylamine (1.31 g, 13.0 mmol) and cooled to 0° C. 3-Nitrobenzoyl chloride (2.00 g, 10.8 mmol) was added portion wise over 5 min. The mixture was stirred at 0° C. for 5 min, then at room temperature for 10 min. The reaction was quenched by addition of 20 ml of saturated NaHCO3. The organic phase was separated and filtered washing with dichloromethane. Drying of the solid under high vacuum yielded 4-(3-nitro-benzoylamino)-benzoic acid ethyl ester as a white solid (2.52 g, 74%), MS (ISP): m/e=315.1 (M+H+).

reactant | 4-amino benzoic acid ethyl ester | 11.8 mmol, 1.95 g | C(C)OC(C1=CC=C(C=C1)N)=O | C9H11NO2
reactant | triethylamine | 13.0 mmol, 1.31 g | C(C)N(CC)CC | C6H15N
reactant | 3-Nitrobenzoyl chloride | 10.8 mmol, 2.00 g | [N+](=O)([O-])C=1C=C(C(=O)Cl)C=CC1 | C7H4ClNO3
solvent | dichloromethane | 20.0 ml | ClCCl | CH2Cl2
product | 4-(3-nitro-benzoylamino)-benzoic acid ethyl ester | 2.52 g, 74% | C(C)OC(C1=CC=C(C=C1)NC(C1=CC(=CC=C1)[N+](=O)[O-])=O)=O | C16H14N2O5
